US04134996
A mixture of 47.9 g (0.250 mole) of p-mercaptophenol, 51.4 g (0.250 mole) of 4-(5-chlorovaleryl)morpholine, 52 ml of 5N sodium hydroxide and 600 ml of water was heated to boiling and then stirred at 50° C. for one hour; and, thereafter, stirred at room temperature for 15 hours. The white, crystalline intermediate precipitated during this period. The dried, crude intermediate was recrystallized from benzene to give the intermediate, 4-[5-(4-hydroxyphenylthio)valeryl]morpholine, as white crystals, mp 112°-113° C.

reactant | p-mercaptophenol | 0.250 mole, 47.9 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | 4-(5-chlorovaleryl)morpholine | 0.250 mole, 51.4 g | ClCCCCC(=O)N1CCOCC1 | C9H16ClNO2
reactant | sodium hydroxide | 5N, 52 ml | [OH-].[Na+]
solvent | water | 600 ml | O | H2O
product | 4-[5-(4-hydroxyphenylthio)valeryl]morpholine | OC1=CC=C(C=C1)SCCCCC(=O)N1CCOCC1 | C15H21NO3S
